US07622605B2
Step 5: 2-Benzyloxy-5-iodo-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene
A solution of iodine (1.52 g, 6.0 mmol) dissolved in CHCl3 (80 mL) was added dropwise to a stirred mixture of 2-benzyloxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene (2.1 g, 6.0 mmol), silver trifluoroacetate (1.33 g, 6.0 mmol) in CHCl3 (20 mL). After the addition was complete the reaction mixture was stirred for 1 hour. The mixture was filtered through a pad of celite washing with CH2Cl2. The filtrate was washed with satd Na2S2O3, brine, dried over Na2SO4 and concentrated to a pale yellow solid (1.68 g). LCMS: APCI−VE=405

reactant | iodine | 6.0 mmol, 1.52 g | II | I2
reactant | 2-benzyloxy-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene | 6.0 mmol, 2.1 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1CC(F)(F)F)C | C16H15F3O
solvent | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | silver trifluoroacetate | 6.0 mmol, 1.33 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 2-Benzyloxy-5-iodo-1-methyl-3-(2,2,2-trifluoro-ethyl)-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1CC(F)(F)F)I)C | C16H14F3IO
